US09359358B2
Step 2: 2-(1,4-dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)isonicotinic acid
In a vial, 1,4-dioxaspiro[4.5]decan-8-ol (0.400 g, 2.53 mmol) was dissolved in tetrahydrofuran (8.44 mL) with tert-butyl 2-chloro-6-(trifluoromethyl)isonicotinate (0.510 g, 1.81 mmol) and cooled to 0° C. and a 60% mixture of sodium hydride in mineral oil (123 mg, 3.08 mmol) was added and the mixture was stirred for 30 minutes at 0° C. and at 25° C. for 30 minutes at which time TLC analysis showed most of the ester was consumed and a new spot with lower Rf was formed. The reaction was continued for 16 hours. LCMS analysis showed that it consisted mainly of the acid. TLC analysis showed the original product was not present. The reaction was quenched with water and extracted with EtOAc. The crude product was used in the next reaction without further purification. MS (ES): 348 (M+1).

reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 2.53 mmol, 0.400 g | O1CCOC12CCC(CC2)O | C8H14O3
reactant | tert-butyl 2-chloro-6-(trifluoromethyl)isonicotinate | 1.81 mmol, 0.510 g | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)C(F)(F)F | C11H11ClF3NO2
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 8.44 mL | O1CCCC1 | C4H8O
product | 2-(1,4-dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)isonicotinic acid | O1CCOC12CCC(CC2)OC=2C=C(C(=O)O)C=C(N2)C(F)(F)F | C15H16F3NO5
